US07968578B2
Step 1: methyl 1-[3-(trifluoromethyl)benzyl]-1H-indole-7-carboxylate
Methyl 1H-indole-7-carboxylate (1 g, 5.71 mmol) and 1-(bromomethyl)-3-(trifluoromethyl)benzene (956 ul, 6.28 mmol) were dissolved in DMF (16 ml), in an ice bath. 60% w/w NaH (251 mg, 6.28 mmol) was added portionwise. The ice bath was removed and the mixture stirred at RT for 30 min. The reaction mixture was quenched with NH4Cl(sat.) and extracted 3 times with ether. The organic layers were combined, washed with water and brine. The compound was purified by flash chromatography on silica gel. 1H NMR (500 MHz, DMSO-d6): δ 7.40 (d, 1H), 7.25 (s, 1H), 7.10 (m, 1H), 7.00 (m, 2H), 6.75 (s, 1H), 6.65 (t, 1H), 6.50 (d, 1H), 6.25 (s, 1H), 5.25 (s, 2H), 2.05 (d, 3H).

reactant | Methyl 1H-indole-7-carboxylate | 5.71 mmol, 1 g | N1C=CC2=CC=CC(=C12)C(=O)OC | C10H9NO2
reactant | 1-(bromomethyl)-3-(trifluoromethyl)benzene | 6.28 mmol, 956 ul | BrCC1=CC(=CC=C1)C(F)(F)F | C8H6BrF3
reactant | NaH | 6.28 mmol, 251 mg | [H-].[Na+]
solvent | DMF | 16 ml | CN(C)C=O | C3H7NO
product | methyl 1-[3-(trifluoromethyl)benzyl]-1H-indole-7-carboxylate | FC(C=1C=C(CN2C=CC3=CC=CC(=C23)C(=O)OC)C=CC1)(F)F | C18H14F3NO2
